US04681883
2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-1-methylbenzimidazole
3-[3-(Piperidinomethyl)phenoxy]propylamine (2.41 g) and 1-methyl-2-methylthiobenzimidazole (1.57 g) were fused at 150° C. for 6 hours. The cooled residue was subjected to column chromatography on silica (chloroform:methanol 19:1) to give the title compound as an oil. This was treated with maleic acid to give 2-[3-[3-(piperidinomethyl)phenoxy]propylamino]-1-methylbenzimidazole dimaleate (0.87 g), m.p. 153°-154° C. (recrystallised from isopropanol).

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 2.41 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 1-methyl-2-methylthiobenzimidazole | 1.57 g | CN1C(=NC2=C1C=CC=C2)SC | C9H10N2S
product | 2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-1-methylbenzimidazole | N1(CCCCC1)CC=1C=C(OCCCNC2=NC3=C(N2C)C=CC=C3)C=CC1 | C23H30N4O
